US09079866B2
5-{3-Fluoro-2′-[(3R)-piperidin-3-yloxy]biphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using (R)-3-(2-bromophenoxy)piperidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C21H21FN4O, 364.17; m/z found, 365.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.48-8.45 (m, 2H), 7.60-7.48 (m, 2H), 7.46-7.34 (m, 3H), 7.23 (d, J=8.0, 1H), 7.13-7.06 (m, 1H), 6.87 (s, 2H), 4.68-4.56 (m, 1H), 3.35-3.30 (m, 1H), 3.11-2.99 (m, 2H), 2.98-2.89 (m, 1H), 2.03-1.93 (m, 1H), 1.88-1.77 (m, 1H), 1.72-1.58 (m, 2H).

reactant | (R)-3-(2-bromophenoxy)piperidine | BrC1=C(O[C@H]2CNCCC2)C=CC=C1 | C11H14BrNO
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{3-Fluoro-2′-[(3R)-piperidin-3-yloxy]biphenyl-4-yl}pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)O[C@H]1CNCCC1 | C21H21FN4O
